US08604074B2
N-(3-(3,6-dibromo-9H-carbazol-9-yl)-2-hydroxypropyl)-N-(3-methoxyphenyl)acetamide
Following a literature procedure (Morcuende, A.; Ors, M.; Valverde, S.; Herradón, B. J. Org. Chem. 1996, 5264-5270) triethylamine (14 μl, 0.10 mmol) and acetyl chloride (8 μl, 0.11 mmol) were added to a heterogeneous mixture of 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol (53 mg, 0.11 mmol) and dibutyltin oxide (5.5 mg, 0.022 mmol) in anhydrous toluene (1.5 ml). The reaction vessel was purged with nitrogen, sealed and heated under microwave radiation to 150° C. for 9 minutes. The reaction was monitored by 1 c/ms and all SM had been consumed. The heterogeneous solution was filtered under vacuum to yield a white solid. The crude product was used without purification.

reactant | triethylamine | 0.10 mmol, 14 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.11 mmol, 8 μl | C(C)(=O)Cl | C2H3ClO
reactant | 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol | 0.11 mmol, 53 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CNC1=CC(=CC=C1)OC)O | C22H20Br2N2O2
reactant | dibutyltin oxide | 0.022 mmol, 5.5 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-(3,6-dibromo-9H-carbazol-9-yl)-2-hydroxypropyl)-N-(3-methoxyphenyl)acetamide | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CN(C(C)=O)C1=CC(=CC=C1)OC)O | C24H22Br2N2O3
